US06825243B2
Into a flask similar to the flask in Synthesis Example 1 were charged 62.3 parts of toluene and 8.4 parts of stearyl alcohol (NAA-46), followed by heating of the mixture to 40 C. After the confirmation of thorough dissolution of stearyl alcohol, 50 parts of hexamethylene diisocyanate subjected to isocyanurate modification (TAKENATE D-170N) were charged and the mixture was heated to 70 C. After 30 minutes of the reaction at the same temperature, 0.02 parts of dibutyltin laurate were charged. After the mixture was maintained at the same temperature for 3 hours, 86.9 parts of polycaprolactone-modified hydroxyethyl (meth)acrylate (“PLACCEL FM2D”, a trade name of Daicel Chemical Industries, Ltd., hydroxyl value: 157), 0.02 parts of dibutyltin laurate, and 0.02 parts of hydroquinone monomethyl ether were charged. The mixture was maintained at 70 C. for 3 hours to complete the reaction, and 83 parts of toluene were added to obtain a urethane methacrylate containing 50% by weight of solid.

reactant | stearyl alcohol | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | hexamethylene diisocyanate | C(CCCCCN=C=O)N=C=O | C8H12N2O2
reactant | TAKENATE | C1=CC(=CC(=C1)CN=C=O)CN=C=O | C10H8N2O2
reactant | dibutyltin laurate | C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC.C(CCCCCCCCCCC)(=O)[O-]
reactant | hydroquinone monomethyl ether | COC1=CC=C(O)C=C1 | C7H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | urethane methacrylate | C(C(=C)C)(=O)O.NC(=O)OCC | InChI=1S/C4H6O2.C3H7NO2/c1-3(2)4(5)6;1-2-6-3(4)5/h1H2,2H3,(H,5,6);2H2,1H3,(H2,4,5)
